US06002008
4-Chloro-7-ethoxy-6-methoxy-3-quinolinecarbonitrile
Mixed 122 mg (0.50 mmol) 7-ethoxy-1,4-dihydro-6-methoxy-4-oxo-3-quinolinecarbonitrile and 2.0 ml methylene chloride under N2 and kept temperature near 25° C. Added 218 ill (2.5 mmol) oxalyl chloride and 10 μl (0.125 mmol) DMF. Stirred overnight, diluted with chloroform and stirred in saturated sodium bicarbonate until basic. Separated layers and dried organics with magnesium sulfate, stripped solvent and dried in vacuo, giving 117 mg of tan solid: mass spectrum (electrospray m/e): M+H=262.8, 264.8.

reactant | 7-ethoxy-1,4-dihydro-6-methoxy-4-oxo-3-quinolinecarbonitrile | 0.50 mmol, 122 mg | C(C)OC1=C(C=C2C(C(=CNC2=C1)C#N)=O)OC | C13H12N2O3
reactant | oxalyl chloride | 2.5 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.125 mmol, 10 μl | CN(C)C=O | C3H7NO
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2.0 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-7-ethoxy-6-methoxy-3-quinolinecarbonitrile | 117 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCC)C#N | C13H11ClN2O2
